US04654428
In 150 ml of ethyl ether was dissolved 9.9 g of carbonyl chloride, and a solution of 22.1 g of γ-triethoxysilylpropylamine and 18.2 g of pyridine in 50 ml of ethyl ether was dropped into the above solution at -5° C. to -10° C. over a period of 3 hours to effect reaction. After the reaction, the crystal of pyridine hydrochloride was removed by filtration and the filtrate was distilled to recover ethyl ether, whereby 17.3 g of γ-triethoxysilylpropyl isocyanate was obtained as a fraction having a boiling point of 95° C. to 100° C. under 8 mmHg.

reactant | carbonyl chloride | 9.9 g | C(=O)(Cl)Cl | CCl2O
reactant | γ-triethoxysilylpropylamine | 22.1 g | C(C)O[Si](CCCN)(OCC)OCC | C9H23NO3Si
reactant | pyridine | 18.2 g | N1=CC=CC=C1 | C5H5N
solvent | ethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | γ-triethoxysilylpropyl isocyanate | 17.3 g | C(C)O[Si](CCCN=C=O)(OCC)OCC | C10H21NO4Si
